US05461060
Preparation of 1-(methylthiomethyl)-6-phenylthiothymine (Compound No. 32)
To 4 ml of dimethylformamide, 0.17 ml (2.0 mmol) of chloromethylmethylsulfide, 0.47 g (2.0 mmol) of 6-phenylthiothymine, 0.56 ml (2.0 mmol) of triethylamine were added and allowed to react for 22 hours at room temperature. The reaction mixture was concentrated under reduced pressure and the residue was adsorbed on a silica gel column and eluted with chloroform. The eluate was concentrated and crystallized from ethyl acetate to obtain 45 mg of the target compound (Yield: 8%).

reactant | chloromethylmethylsulfide | 2.0 mmol, 0.17 ml | ClCSC | C2H5ClS
reactant | 6-phenylthiothymine | 2.0 mmol, 0.47 g | C1(=CC=CC=C1)C1=C(C(NC(N1)=S)=O)C | C11H10N2OS
reactant | triethylamine | 2.0 mmol, 0.56 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | 1-(methylthiomethyl)-6-phenylthiothymine | 45 mg, Yield: 8% | CSCN1C(=S)NC(=O)C(C)=C1C1=CC=CC=C1 | C13H14N2OS2
